US07582773B2
Step 1: Synthesis of 3-Benzyl-5-bromo-1,2-dimethyl-1H-indole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 3-benzyl-5-bromo-2-methyl-1H-indole (1.530 g, 5.097 mmol) was reacted with k-t-butoxide (0.601 g, 5.352 mmol) and methyl iodide (0.760 g, 5.352 mmol) in DMF (15 ml) to give the product (1.453 g, 4.624 mmol, 91%) as a yellow solid, mp 104-106° C. 1H NMR (DMSO-d6) δ 2.39 (s, 3H), 3.65 (s, 3H), 3.99 (s, 2H), 7.10-7.14 (m, 2H), 7.18 (d, J=6.7 Hz, 2H), 7.22 (t, J=7.6 Hz, 2H), 7.34 (d, J=8.6 Hz, 1H), 7.49 (d, J=1.8 Hz, 1H); [ESI(+)], m/z 314/316 (M+H)+.

reactant | 3-benzyl-5-bromo-2-methyl-1H-indole | 5.097 mmol, 1.530 g | C(C1=CC=CC=C1)C1=C(NC2=CC=C(C=C12)Br)C | C16H14BrN
reactant | methyl iodide | 5.352 mmol, 0.760 g | CI | CH3I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-Benzyl-5-bromo-1,2-dimethyl-1H-indole | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)Br)C)C | C17H16BrN
